US08729263B2
Synthesis of N-methyl-6-(phthalazin-6-yl)-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine
A mixture of 6-bromophthalazine (0.11 g, 0.50 mmol), 6-chloro-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (0.16 g, 0.58 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (0.14 g, 0.55 mmol), potassium acetate (0.15 g, 1.5 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (0.04 g, 0.05 mmol) in dioxane (3 mL) was heated at 80° C. for 3 h. Potassium carbonate (0.20 g, 1.5 mmol) and water (0.4 mL) were added and the mixture was stirred for 48 h at 90° C. After cooling, the reaction was purified by solid phase extraction (SiliaBond Carbonate®, MeOH as eluent). After evaporation of the solvent under reduced pressure, the material afforded was purified via reverse phase preparative HPLC using 5 to 95% acetonitrile in water modified with 3% n-PrOH. LCMS: Rt=0.43 min [M+H] (LCMS method Q); 377.245; 1H NMR (400 MHz, DMSO-d6) δ 9.74-9.62 (m, 2H), 8.75 (s, 1H), 8.74 (dd, J=8.5, 2.0 Hz, 1H), 8.23 (d, J=8.5 Hz, 1H), 8.12 (d, J=9.5 Hz, 1H), 7.19 (d, J=9.5 Hz, 1H), 5.19 (tt, J=12.0, 3.5 Hz, 1H), 2.98 (s, 3H), 1.56 (dd, J=12.0, 3.5 Hz, 2H), 1.45 (t, J=12.0 Hz, 2H), 1.27 (s, 6H), 1.10 (s, 6H).

reactant | 6-bromophthalazine | 0.50 mmol, 0.11 g | BrC=1C=C2C=NN=CC2=CC1 | C8H5BrN2
reactant | 6-chloro-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 0.58 mmol, 0.16 g | ClC1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C | C14H23ClN4
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.55 mmol, 0.14 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.5 mmol, 0.15 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.05 mmol, 0.04 g | ClCCl | CH2Cl2
reactant | Potassium carbonate | 1.5 mmol, 0.20 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.4 mL | O | H2O
product | N-methyl-6-(phthalazin-6-yl)-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | CN(C=1N=NC(=CC1)C=1C=C2C=NN=CC2=CC1)C1CC(NC(C1)(C)C)(C)C | C22H28N6
